US09227971B2
Preparation of 4-nitrophenyl {[tert-butyl(dimethyl)silyl]oxy}carbamate
(Aminooxy) (tert-butyl)dimethylsilane (1.00 g, 6.79 mmol) was dissolved in a mixture of dry pyridine (0.549 mL, 6.79 mmol) and dichloroethane (15 mL; dichloromethane could also be used), and a solution of 4-nitrophenyl chlorocarbonate (1.37 g, 6.79 mmol) in dichloroethane (7 mL) was added over 5 min. The resulting mixture was stirred at room temperature overnight and was then diluted with dichloromethane, washed twice with water, twice with saturated aqueous sodium bicarbonate, and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude product was purified by chromatography (90 g silica gel, 20% EtOAc/hexanes eluent) to give the title compound (1.73 g, 81%) as a white solid.

reactant | (Aminooxy) (tert-butyl)dimethylsilane | 6.79 mmol, 1.00 g | NO[Si](C)(C)C(C)(C)C | C6H17NOSi
reactant | pyridine | 6.79 mmol, 0.549 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chlorocarbonate | 6.79 mmol, 1.37 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 7 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-nitrophenyl {[tert-butyl(dimethyl)silyl]oxy}carbamate | 1.73 g, 81% | [Si](C)(C)(C(C)(C)C)ONC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H20N2O5Si
